US07728003B2
Step A. 8-Cyclohexyl-5-oxo-2-(2-methoxy-ethylamino)-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
Using the procedure outlined in Example 28 Step F, the title compound was prepared from 2-methoxy-ethylamine and 8-cyclohexyl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (27 mg, 0.07 mmol). 8-Cyclohexyl-5-oxo-2-(2-methoxy-ethylamino)-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester was obtained as a white solid (20 mg, 80%). Mass Spectrum (LCMS, ESI pos.) Calcd. For C19H26N4O4: 375.2 (M+H). Found: 375.2.

reactant | 2-methoxy-ethylamine | COCCN | C3H9NO
reactant | 8-cyclohexyl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.07 mmol, 27 mg | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)S(=O)(=O)C)N(C1)C1CCCCC1)=O | C17H21N3O5S
product | 8-Cyclohexyl-5-oxo-2-(2-methoxy-ethylamino)-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)NCCOC)N(C1)C1CCCCC1)=O | C19H26N4O4
